US07504408B2
N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-{3-[4-(2-fluoroethyl)piperazin-1-yl]propoxy}-6-methoxyquinazolin-4-amine
This was prepared by the method described in example 4 using 4-chloro-7-{3-[4-(2-fluoroethyl)piperazin-1-yl]propoxy}-6-methoxyquinazoline (200 mg, 0.52 mmol), 5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-amine (146 mg, 0.57 mmol) and sodium bis(trimethylsilyl)amide (1.0M in THF, 1.10 ml) in DMF (3 ml). The crude product was purified by column chromatography on silica using increasing concentrations of methanol in dichloromethane as eluent. There was thus obtained the title compound (187 mg, 60%) as colourless solid, NMR Spectrum:(CDCl3) 2.10 (quintet, 2H), 2.57 (m, 8H), 2.67 & 2.72 (dt, 2H), 2.74 (t, 2H), 3.41 (s, 3H), 3.60 (t, 2H), 3.98 (s, 3H), 4.23 (t, 2H), 4.51 & 4.63 (dt, 2H), 6.06 (s, 2H), 6.85 (s, 1H), 7.04 (s, 1H), 7.08 (s, 1H), 7.28 (s, 1H), 8.61 (s, 1H); Mass Spectrum: M+H+ 600/602

reactant | 4-chloro-7-{3-[4-(2-fluoroethyl)piperazin-1-yl]propoxy}-6-methoxyquinazoline | 0.52 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)CCF | C18H24ClFN4O2
reactant | 5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-amine | 0.57 mmol, 146 mg | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)N | C12H12ClNO3
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 1.10 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-{3-[4-(2-fluoroethyl)piperazin-1-yl]propoxy}-6-methoxyquinazolin-4-amine | 187 mg, 60% | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)CCF | C30H35ClFN5O5
